US07504420B2
To the sodium hydride (16 mg, 0.68 mmol) in THF (3 ml) at 0° C., methyl 3-(2,2-dimethylhydrazinecarbonyl)benzoate (100 mg, 0.45 nmol) was added. After 10 min, 4-methyl-2-bromo methyl thiazole (103 mg, 0.54 mmol) was added and reaction mixture was stirred at 3-4° C. overnight. Reaction mixture was quenched with MeOH and diluted with ethylacetate. Organic layer was washed with water, brine and dried. Crude residue was purified by column chromatography to yield 70% of methyl 3-(2,2-dimethyl-1-((4-methylthiazol-2-yl)methyl)hydrazinecarbonyl)benzoate.

reactant | sodium hydride | 0.68 mmol, 16 mg | [H-].[Na+]
reactant | methyl 3-(2,2-dimethylhydrazinecarbonyl)benzoate | 0.45 nmol, 100 mg | CN(NC(=O)C=1C=C(C(=O)OC)C=CC1)C | C11H14N2O3
reactant | 4-methyl-2-bromo methyl thiazole | 0.54 mmol, 103 mg | CC=1N=C(SC1)CBr | C5H6BrNS
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | methyl 3-(2,2-dimethyl-1-((4-methylthiazol-2-yl)methyl)hydrazinecarbonyl)benzoate | 70% | CN(N(C(=O)C=1C=C(C(=O)OC)C=CC1)CC=1SC=C(N1)C)C | C16H19N3O3S
